US08703907B2
N-(6-(2,4-Dinitrophenylamino)Hexanoyl-L-Serine Allyl Ester
A solution of N-(tert-butoxycarbonyl)-L-serine allyl ester (0.175 g, 0.731 mmol) in 4 M hydrogen chloride/dioxane (2 mL) was stirred at ambient temperature for 40 minutes. The reaction mixture was concentrated on a rotary evaporator and the crude HCl salt was taken up in anhydrous tetrahydrofuran (3 mL). To this solution was added N-succinimidyl 6-(2,4-dinitroanilino)hexanoate (0.288 g, 0.791 mmol) and triethylamine (102 mL, 0.731 mmol). The reaction mixture was stirred at room temperature for 30 minutes and the solvent was evaporated. The residue was partitioned between ethyl acetate and water and the phases were separated. The organic phase was washed with saturated NaHCO3 and saturated NaCl. It was dried over MgSO4, filtered, and concentrated under reduced pressure to yield the crude product (0.293 g) as a yellow oil. Purification using a Thomson Instruments Single Step 12 g silica gel cartridge eluting with 50% hexanes/50% ethyl acetate followed by ethyl acetate gave the product (0.222 g, 72%) as a yellow oil. 1H NMR (DMSO-d6) δ 1.32 (2H, m), 1.52-1.64 (4H, m), 2.15 (2H, t, J=7.0 Hz), 3.44 (2H, m), 3.59 (1H, m), 3.66 (1H, m), 4.33 (1H, m), 4.55 (2H, m), 5.02 (1H, t, J=5.5 Hz), 5.17 (1H, m), 5.28 (1H, m), 5.83 (1H, m), 7.21 (1H, d, J=9.5 Hz), 8.12 (1H, d, J=7.9 Hz), 8.23 (1H, dd, J=2.5 Hz, J=9.4 Hz), 8.85 (2H, m).

reactant | N-(tert-butoxycarbonyl)-L-serine allyl ester | 0.731 mmol, 0.175 g | C(C=C)OC([C@@H](NC(=O)OC(C)(C)C)CO)=O | C11H19NO5
reactant | N-succinimidyl 6-(2,4-dinitroanilino)hexanoate | 0.791 mmol, 0.288 g | C1CC(=O)N(C1=O)OC(=O)CCCCCNC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-] | C16H18N4O8
reactant | triethylamine | 0.731 mmol, 102 mL | C(C)N(CC)CC | C6H15N
solvent | hydrogen chloride dioxane | 4 M, 2 mL | Cl.O1CCOCC1
product | 6-(2,4-Dinitrophenylamino)Hexanoyl-L-Serine Allyl Ester | 0.222 g, 72% | C(C=C)OC([C@@H](NC(CCCCCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)CO)=O | C18H24N4O8
